US08071584B2
1-[(E)-2-(4-Fluoro-2-nitrophenyl)ethenyl]pyrrolidine
To a stirred solution of 4-fluoro-2-nitrotoluene (50.0 g, 0.327 mol) in DMF (100 mL) was added DMF-DMA (52 mL, 0.392 mol) and pyrrolidine (33 ml, 0.392 mol) in DMF (100 mL). The reaction mixture was stirred at reflux overnight and then concentrated under reduced pressure, giving 84 g of the title compound.

reactant | 4-fluoro-2-nitrotoluene | 0.327 mol, 50.0 g | FC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | DMF-DMA | 0.392 mol, 52 mL | CN(C)C(OC)OC | C5H13NO2
reactant | pyrrolidine | 0.392 mol, 33 ml | N1CCCC1 | C4H9N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-[(E)-2-(4-Fluoro-2-nitrophenyl)ethenyl]pyrrolidine | 84 g | FC1=CC(=C(C=C1)/C=C/N1CCCC1)[N+](=O)[O-] | C12H13FN2O2
